US07445645B2
Step 1: Preparation of 2-methoxymethyl-4-nitrophenol (1)
18.7 g (0.1 mol) of 2-chloromethyl-4-nitrophenol and 50 ml of pure methanol were mixed together and refluxed for 2 hours 30 minutes. 37 ml of sodium methoxide (0.2 mol, 5.4 N solution in MeOH) were added and the mixture was refluxed for another 30 minutes. The resulting mixture was cooled in an ice bath and diluted with 350 ml of water, and the insoluble matter formed was filtered off. The filtrate was acidified with acetic acid (10 ml). The crystalline product was filtered off by suction, reslurried in ice-cold water and then dried over P2O5 at 40° C. 11.4 g of crude products were isolated and then recrystallized from 15 ml of isopropyl acetate to give 7.5 g of expected product.

reactant | 2-chloromethyl-4-nitrophenol | 0.1 mol, 18.7 g | ClCC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H6ClNO3
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium methoxide | 0.2 mol, 5.4 N, 37 ml | C[O-].[Na+]
solvent | water | 350 ml | O | H2O
product | 2-methoxymethyl-4-nitrophenol | 7.5 g | COCC1=C(C=CC(=C1)[N+](=O)[O-])O | C8H9NO4
